US06921821B2
4-(6-Methoxy-1-methyl-2-oxo-1,2-dihydro-quinolin-4-ylamino)-piperidine-1-carboxylic acid ethyl ester
To a suspension of 4-Hydroxy-6-methoxy-1-methyl-1H-quinolin-2-one (1.8 g, 10 mmol) in DMF (30 mL) was added sodium hydride (385 mg, 10 mmol, 60% dispersion in mineral oil). After stirring for 5 minutes, N-phenyltrifluoromethanesulfonamide (3.4 g, 10 mmol) was added and the reaction was stirred and monitored by TLC to completion (20 minutes). 4-amino-piperidine-1-carboxylic acid ethyl ester was then added and the reaction mixture was heated at 60° C. over night. The reaction mixture was then diluted up with EtOAc and washed with water, NaHCO3, and brine. The organic portion was dried over MgSO4 and evaporated to afford a residue which was purified by flash chromatography through a silica gel column with dichloromethane and methanol (95:5 v/v) to provide the title compound (445 mg, 12%). 1H NMR (300 MHz, CDCl3) δ 1.27 (2H, t, J=7.11 Hz), 1.22-1.35 (2H, m), 1.40-1.55 (2H, m), 2.10-2.20 (2H, m), 2.90-3.05 (2H, m), 3.50-3.70 (1H, m), 3.64 (3H, s), 3.87 (3H, s), 4.14 (2H, q, J=7.10), 4.50 (1H, br d, J=7.3 Hz), 5.29 (1H, s), 6.95 (1H, d; J=2.31 Hz), 7.17 (1H, dd, J=2.31, 9.03 Hz), 7.30 (1H, d, J=8.94 Hz).

reactant | 4-Hydroxy-6-methoxy-1-methyl-1H-quinolin-2-one | 10 mmol, 1.8 g | OC1=CC(N(C2=CC=C(C=C12)OC)C)=O | C11H11NO3
reactant | sodium hydride | 10 mmol, 385 mg | [H-].[Na+]
reactant | N-phenyltrifluoromethanesulfonamide | 10 mmol, 3.4 g | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | 4-amino-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(6-Methoxy-1-methyl-2-oxo-1,2-dihydro-quinolin-4-ylamino)-piperidine-1-carboxylic acid ethyl ester | 445 mg, 12% | C(C)OC(=O)N1CCC(CC1)NC1=CC(N(C2=CC=C(C=C12)OC)C)=O | C19H25N3O4
